US04147780
The procedure described in Example 36B was repeated using DL-1-benzhydrylamino-1-(4-acetamidophenyl)-methanephosphonous acid instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-1-(4-acetamidophenyl)-methanephosphonous acid. This was treated with dilute hydrobromic acid at reflux followed by propylene oxide to give DL-1-amino-1-(4-aminophenyl)-methanephosphonous acid.

reactant | 1-benzhydrylamino-1-(4-acetamidophenyl)-methanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(P(O)O)C1=CC=C(C=C1)NC(C)=O | C22H23N2O3P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-1-(4-acetamidophenyl)-methanephosphonous acid | NC(P(O)O)C1=CC=C(C=C1)NC(C)=O | C9H13N2O3P
